US08252810B2
(1) 4,5-Dimethyl-2-oxiranylmethyl-2,4-dihydro[1,2,4]triazol-3-one
After dissolving 4,5-dimethyl-2,4-dihydro[1,2,4]triazol-3-one (CAS 54770-19-3) (560 mg) in N,N-dimethylformamide (5 ml), sodium hydride (60% in oil) (238 mg) and epibromohydrin (0.85 ml) were added and the mixture was stirred at room temperature for one day. Water was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (390 mg).

reactant | 4,5-dimethyl-2,4-dihydro[1,2,4]triazol-3-one | 560 mg | CN1C(NN=C1C)=O | C4H7N3O
reactant | sodium hydride | 238 mg | [H-].[Na+]
reactant | epibromohydrin | 0.85 ml | C(Br)C1CO1 | C3H5BrO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,5-Dimethyl-2-oxiranylmethyl-2,4-dihydro[1,2,4]triazol-3-one | 390 mg | CN1C(N(N=C1C)CC1OC1)=O | C7H11N3O2
